US05436260
Methyl Z-4-[[5-[[3-[(1,1'-biphenyl)-4-ylmethyl]-1-butyl-2,5-dioxo-4-imidazolidinylidene]methyl]-2-butyl-1H-imidazol-1-yl]methyl]benzoate
To a solution of methyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate (0.438 g, 1.00 mmol) in DMF (10 mL) is added K2CO3 (0.42 g, 3.00 mmol). After stirring for 5 minutes diphenylmethyl chloride (0.210 g, 1.00 mmol) is added. The mixture is stirred for 16 hours, filtered, and evaporated in vacuo. The gum is dissolved in ethyl acetate and washed with water, brine and dried over MgSO4. Chromatography eluting with (50-100)% ethyl acetate in hexane, evaporation in vacuo affords a foam.

reactant | methyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate | 1.00 mmol, 0.438 g | C(CCC)C=1N(C(=CN1)\C=C\1/NC(N(C1=O)CCCC)=O)CC1=CC=C(C(=O)OC)C=C1 | C24H30N4O4
reactant | K2CO3 | 3.00 mmol, 0.42 g | C(=O)([O-])[O-].[K+].[K+]
reactant | diphenylmethyl chloride | 1.00 mmol, 0.210 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Cl | C13H11Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl Z-4-[[5-[[3-[(1,1'-biphenyl)-4-ylmethyl]-1-butyl-2,5-dioxo-4-imidazolidinylidene]methyl]-2-butyl-1H-imidazol-1-yl]methyl]benzoate | C1(=CC=C(C=C1)CN\1C(N(C(/C1=C/C1=CN=C(N1CC1=CC=C(C(=O)OC)C=C1)CCCC)=O)CCCC)=O)C1=CC=CC=C1 | C37H40N4O4
